US06465467B1
2-(2-Methoxyphenoxy)-1-methylethyl 3-(4-ethyl-1-piperazinyl)-2-pyrazinyl Ether
The title compound was prepared according to the procedure described in Example 4, Step 2, starting from 2-chloro-3-[2-(2-methoxyphenoxy)-1-methylethoxy]pyrazine* (150 mg, 0.51 mmol) and N-ethylpiperazine (222 mg, 1.94 mmol) with the exception that a final extraction step between EtOAc and 5% aqueous NaOH was carried out. This gave 127 mg (67%) of the title product. HRMS m/z calcd for C20H28N4O3 (M)+ 372.2161, found 372.2174. Anal. (C20H28N4O3) C, H, N.

reactant | 2-chloro-3-[2-(2-methoxyphenoxy)-1-methylethoxy]pyrazine | ClC1=NC=CN=C1OC(COC1=C(C=CC=C1)OC)C | C14H15ClN2O3
reactant | N-ethylpiperazine | 1.94 mmol, 222 mg | C(C)N1CCNCC1 | C6H14N2
product | 2-(2-Methoxyphenoxy)-1-methylethyl 3-(4-ethyl-1-piperazinyl)-2-pyrazinyl Ether | C(C)N1CCN(CC1)C=1C(=NC=CN1)OC(COC1=C(C=CC=C1)OC)C | C20H28N4O3
